### PR TITLE
Added Data.Vec.updateAt and its properties.

### PR DESCRIPTION
**Pull request by andreasabel**
Generalized Data.Vec.\_[\_]:=\_ (update) to updateAt which applies a function to the vector element pointed to by the index.  I generalized all existing laws for update to updateAt.  

Possible bikeshedding:
- [ ] name of `updateAt` 

We should have a uniform name for updating a point in a collection (list, vector, finite map) by a function which modifies its value.  The updateAt operation is more general than overwriting an element (which is a trivial special case of updateAt).

### CODE REVIEW

File: src/Data/Vec/Properties.agda [hunk 1]
```diff
@@ -70,66 +70,166 @@ module _ {a} {A : Set a} where
...
+    updateAt i id xs ≡ xs
+  updateAt-id i xs = updateAt-id-relative i xs refl
+
+  -- 2. composition:  updateAt i f ∘ updateAt i g ≗ updateAt i (f ∘ g)
+
+  updateAt-compose : ∀ {n} (i : Fin n) {f g : A → A} →
+    updateAt i f ∘ updateAt i g ≗ updateAt i (f ∘ g)
+  updateAt-compose zero    (x ∷ xs) = refl
+  updateAt-compose (suc i) (x ∷ xs) = P.cong (x ∷_) (updateAt-compose i xs)
+
```
Comment (gallais) [inline src/Data/Vec/Properties.agda]: I suppose we could also have

```agda
updateAt-compose-relative : ∀ {n} (i : Fin n) {f g h : A → A} →
     (f ∘ g) ≡ h ↾¹ lookup i xs →
￼     updateAt i f ∘ updateAt i g ≗ updateAt i h
```

**Comment by MatthewDaggitt** [comment]
@andreasabel sorry it's taken me so long to look at this. It all looks good! My only comment is that I don't find the `_≡_↾¹_` relations very intuitive to read. I think it would be much clearer if it was written out longhand. Would you mind if I changed it?

File: src/Data/Vec/Properties.agda (hunk 1 above)
Comment (andreasabel) [reply src/Data/Vec/Properties.agda]: Yes, maybe, even though it is a simple two-step inference:
```
   updateAt i f ∘ updateAt i g ≗  { updateAt-compose }
   updateAt i (f ∘ g) ≗           { updateAt-cong-relative }
   updateAt i h
```

File: src/Data/Vec/Properties.agda [hunk 2]
```diff
@@ -621,3 +739,6 @@ module _ {a} {A : Set a} where
   toList∘fromList : (xs : List A) → toList (fromList xs) ≡ xs
   toList∘fromList List.[]       = refl
   toList∘fromList (x List.∷ xs) = P.cong (x List.∷_) (toList∘fromList xs)
+
+-- -}
+-- -}
```
Comment (gallais) [inline src/Data/Vec/Properties.agda]: This was probably not intended.

**Comment by MatthewDaggitt** [comment]
Thanks, merging in. Will fix the uncomment typo.

File: src/Data/Vec/Properties.agda (hunk 2 above)
Comment (andreasabel) [reply src/Data/Vec/Properties.agda]: Indeed.  It is owed to having to close a comment, even if it is supposed to last until the end of the file.  I thought there was a rejected proposal to relax it, but I cannot find it on the Agda bug tracker.  It would be nice if the lack of a closing -} would be a warning rather than an error.

**Comment by andreasabel** [comment]
Thanks for merging!
